US03976638
iii. 9-Fluoro-21-iodo-11β-hydroxypregna-1,4,16-triene-3,20-dione
A solution of 2.0 g of 9-fluoro-11β,21-dihydroxypregna-1,4,16-triene-3,20-dione, 21-methanesulfonate in 100 ml of acetone is refluxed with 3 g of sodium iodide under nitrogen for about 17 hours. The solid is filtered off and washed with 50 ml of acetone. The filtrate is evaporated in vacuo. The residue is redissolved in chloroform-methanol (9:1), washed with water, dried over anhydrous sodium sulfate and evaporated in vacuo to give 2.0 g of the title compound.

reactant | 9-fluoro-11β,21-dihydroxypregna-1,4,16-triene-3,20-dione | 2.0 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(CO)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H25FO4
reactant | sodium iodide | 3 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 9-Fluoro-21-iodo-11β-hydroxypregna-1,4,16-triene-3,20-dione | 2.0 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(CI)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H24FIO3
